US05854275
A solution of 4-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)ethylcarbamoyl]cyclohexylmethyl}butyricacidtert-butyl ester (diastereomer A) (50 mg, 0.075 mmol) in trifluoroacetic acid (1 mL) was stirred overnight at room temperature. The solvent was evaporated under vacuum leaving a white foam which was titrated with ether to afford 4-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl) ethylcarbamoyl]-cyclohexylmethyl}butyric acid (diastereomer A) as a white solid, 40 mg (87%). High Resolution Mass Spectrum M+ calculated for C35H39N3O7 : 613.2788; found: 613.2746.

reactant | 4-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)ethylcarbamoyl]cyclohexylmethyl}butyricacidtert-butyl ester | C(C)(C)(C)OC(C(CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)CC3(CCCCC3)C(NC(CC3=CC=C(C=C3)OC)C(NC)=O)=O)=O | C39H47N3O7
reactant | ether | CCOCC | C4H10O
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl) ethylcarbamoyl]-cyclohexylmethyl}butyric acid | O=C1N(C(C=2C=C3C(=CC12)C=CC=C3)=O)CCC(C(=O)O)CC3(CCCCC3)C(NC(CC3=CC=C(C=C3)OC)C(NC)=O)=O | C35H39N3O7
